* CMOS Inverter

* Define the technology model parameters
.model nmos nmos 
.model pmos pmos

* Circuit elements
Vdd vdd 0 DC 1V ; Power supply voltage
Vin in 0 PULSE(0 1 0 1n 1n 10n 20n); Input voltage (will be varied)

* Transistor instances
M1 out in vdd vdd pmos L=45n W=240n ; PMOS transistor
M2 out in 0 0 nmos L=45n W=120n ; NMOS transistor

* Load capacitance
*Cload out 0 1pF ; Load capacitor

* DC Analysis
.dc Vin 0 1 0.1 ; Sweep input voltage from 0 to 1V in steps of 0.1V

* Transient analysis (optional)
.tran 1n 100n ; Transient analysis for 20 ns
.control
    run ; Run the simulation
    plot V(out) V(in) ; Plot output and input voltages
.endc
.end

